US07544704B2
2-(5-Methyl-3-phenyl-isoxazol-4-ylethynyl)-N-(4-methyl-thiazol-2-yl)-isonicotinamide
To a solution of 2-amino-4-methylthiazole (57 mg, 0.50 mmol) in dioxane (1.2 mL) was added trimethylaluminium (2 M in heptane, 251 μl, 0.50 mmol). The resulting red-brown solution was stirred for 1 h at ambient temperature before 2-(5-methyl-3-phenyl-isoxazol-4-ylethynyl)-isonicotinic acid methyl ester (40 mg, 0.13 mmol) was added. The reaction mixture was heated for 2.25 h at 110° C. before cooling to ambient temperature. Water (29 μL) was added and the mixture was stirred for 10 min at ambient temperature. Magnesium sulfate was added and the mixture was filtered over Hyflo®. Concentration and purification by chromatography (SiO2, heptane:ethyl acetate=95:5 to 0:100) was followed by separation between hydrochloric acid (1 M, 30 mL) and ethyl acetate (100 mL). The organic layers were washed with brine, dried over sodium sulfate and were concentrated affording the title compound (48 mg, 96%) as an off-white solid. MS: m/e=401.2 [M+H]+.

reactant | 2-amino-4-methylthiazole | 0.50 mmol, 57 mg | NC=1SC=C(N1)C | C4H6N2S
reactant | trimethylaluminium | 0.50 mmol, 2 M, 251 μl | C[Al](C)C
reactant | 2-(5-methyl-3-phenyl-isoxazol-4-ylethynyl)-isonicotinic acid methyl ester | 0.13 mmol, 40 mg | COC(C1=CC(=NC=C1)C#CC=1C(=NOC1C)C1=CC=CC=C1)=O | C19H14N2O3
reactant | Magnesium sulfate | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | dioxane | 1.2 mL | O1CCOCC1 | C4H8O2
solvent | Water | 29 μL | O | H2O
product | 2-(5-Methyl-3-phenyl-isoxazol-4-ylethynyl)-N-(4-methyl-thiazol-2-yl)-isonicotinamide | 48 mg, 96% | CC1=C(C(=NO1)C1=CC=CC=C1)C#CC=1C=C(C(=O)NC=2SC=C(N2)C)C=CN1 | C22H16N4O2S
